US04692442
3-ethyl-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-2-oxoazetidine (racemic cis-trans compound in a ratio of 1:4)
A solution, prepared in the cold, of 7.95 g (26.7 mmole) of 4-p-nitrobenzyloxycarbonylaminothiobutyric acid in 26.7 ml of 1N sodium hydroxide solution is added dropwise to a pre-cooled solution of 3.24 g (20 mmole) of 3-ethyl-4-acetoxyazetidin-2-one (racemic cis-trans compound in a ratio of 6:4) in 50 ml of dioxan and the mixture is stirred for 2 hours at room temperature. The reaction mixture is exhaustively extracted with methylene chloride. The combined organic phases are dried over sodium sulphate and concentrated by evaporation in vacuo. The residue is chromatographed over silica gel with toluene/ethyl acetate (9:1, 4.1 and 1:1) and yields the title compound with the following physico-chemical properties.

reactant | 4-p-nitrobenzyloxycarbonylaminothiobutyric acid | 26.7 mmole, 7.95 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCC(=S)O)C=C1 | C12H14N2O5S
reactant | 3-ethyl-4-acetoxyazetidin-2-one | 20 mmole, 3.24 g | C(C)C1C(NC1OC(C)=O)=O | C7H11NO3
solvent | sodium hydroxide | 1N, 26.7 ml | [OH-].[Na+]
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 3-ethyl-4-(4-p-nitrobenzyloxycarbonylaminobutyrylthio)-2-oxoazetidine | C(C)C1C(NC1SC(CCCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C17H21N3O6S
